US06492541B2
1883 g (9.52 mol) of O-acetyl-L-homoserine hydrochloride are added to a solution of 1600 g (19.04 mol) of sodium hydrogen carbonate in 9.3 litres of water, and the mixture is cooled to 5° C. 1823 g (10.47 mol) of benzyl chloro-formate are then added and the pH is maintained at 7.5 by addition of 20% sodium carbonate solution. The mixture is stirred for 2 hours at 15° C. and then extracted using 20 litres of methyl isobutyl ketone. The aqueous phase is adjusted to pH=2.0 using concentrated hydrochloric acid and extracted twice using a total of 25 litres of methyl isobutyl ketone. The combined organic phases are washed with 3.5 litres of water and concentrated in vacuo. The residue is taken up in 19.5 litres of methyl isobutyl ketone; 856 g (8.47 mol) of triethylamine are added and the mixture is cooled to 0° C. 1042 g (8.47 mol) of pivaloyl chloride are then added and stirring is carried out for 20 minutes. After the addition of 1000 g (8.47 mol) of p-aminobenzonitrile, stirring is carried out for 36 hours at room temperature. 10 litres of water are then added and the pH is adjusted to 2.0 using concentrated hydrochloric acid. The organic phase is separated off; 10 litres of water are added and the pH is adjusted to 11 using 50% sodium hydroxide solution. After washing with 3 litres of water, the organic phase is concentrated in vacuo to about 3.5 kg. The residue is dissolved in 25 litres of methanol, and 7.5 litres of 25% ammonia are added. The mixture is then heated at 60° C. for 6 hours and then concentrated in vacuo. The residue is dehydrated by removal of 3×7.5 litres of methyl isobutyl ketone by distillation, is taken up in 25 litres of tetrahydrofuran and cooled to −5° C., and 1522 g (13.28 mol) of mesyl chloride are added. 1341 g (13.28 mol) of triethylamine are then added over a period of 45 minutes and stirring is carried out for one hour; then 2300 g of 50% sodium hydroxide solution are added and stirring is carried out for one hour. 3 litres of water are then added to the reaction mixture, and the pH is adjusted to 7 using concentrated hydrochloric acid. The solid obtained after removal of the tetrahydrofuran in vacuo is stirred with 14 litres of water, filtered off with suction and washed with water. The crude product is stirred with 19 litres of methyl isobutyl ketone at 50° C. and filtered off with suction. Drying yields 1401 g (44%) of 3-benzyloxy-carbonyl-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine.

reactant | O-acetyl-L-homoserine hydrochloride | 9.52 mol, 1883 g | Cl.C(C)(=O)OCC[C@H](N)C(=O)O
reactant | sodium hydrogen carbonate | 19.04 mol, 1600 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloro-formate | 10.47 mol, 1823 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethylamine | 8.47 mol, 856 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 8.47 mol, 1042 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | p-aminobenzonitrile | 8.47 mol, 1000 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | hydrochloric acid | Cl | ClH
reactant | mesyl chloride | 13.28 mol, 1522 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 13.28 mol, 1341 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2300 g | [OH-].[Na+]
solvent | water | 9.3 litres | O | H2O
solvent | water | 3 litres | O | H2O
solvent | water | 10 litres | O | H2O
product | 3-benzyloxy-carbonyl-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine | 1401 g, 44% | C(C1=CC=CC=C1)OC1(C(N(CC1=C=O)C1=CC=C(C=C1)C#N)=O)N | C19H15N3O3
